US07407961B2
To a mixture of 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone (500 mg), ethynyl(trimethyl)silane (255 mg), PdCl2(PPh3)2 (46 mg), CuI (12 mg), and CH2Cl2 (10 ml), was added NEt3 (0.2 ml) under ice-bath cooling. The mixture was allowed to warm to 25° C. and stirred for 15 hours. Water and EtOAc were poured into the mixture, and the organic layer was separated, washed with water and brine, and dried over MgSO4. The solvent was removed under reduced pressure. The residue was purified by column chromatography (silica-gel; CH2Cl2—MeOH), recrystallized from EtOH, and dried in vacuo to give 5-{5-amino-3-phenyl-6-[(trimethylsilyl)ethynyl]-2-pyrazinyl}-1-isopropyl-2(1H)-pyridone (373 mg).

reactant | 5-(5-amino-6-bromo-3-phenyl-2-pyrazinyl)-1-isopropyl-2(1H)-pyridone | 500 mg | NC=1N=C(C(=NC1Br)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C18H17BrN4O
reactant | ethynyl(trimethyl)silane | 255 mg | C(#C)[Si](C)(C)C | C5H10Si
reactant | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
reactant | NEt3 | 0.2 ml | CCN(CC)CC | C6H15N
catalyst | PdCl2(PPh3)2 | 46 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 12 mg | [Cu]I
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | Water | O | H2O
product | 5-{5-amino-3-phenyl-6-[(trimethylsilyl)ethynyl]-2-pyrazinyl}-1-isopropyl-2(1H)-pyridone | 373 mg | NC=1N=C(C(=NC1C#C[Si](C)(C)C)C=1C=CC(N(C1)C(C)C)=O)C1=CC=CC=C1 | C23H26N4OSi
